US04012415
A mixture of 52.0 g (0.167 mole) of ethyl 5-(3,4-dimethoxyphenyl)-2-furimidate hydrochloride, 19.3 g (0.184 mole) of aminoacetaldehyde dimethyl acetal and 800 ml of anhydrous methanol was heated to reflux with dissolution. The solution was refluxed for 5 hours and the solvent was then removed on the Calab evaporator yielding a residual oil which was stirred in 800 ml of 3N HCl for ca. 20 hours at a temperature of 70°. The resulting solid was washed in refluxing acetic acid, filtered hot and dried at 100° to yield 14.5 g (28%) of 2-[5-(3,4-dimethoxyphenyl)-2-furyl]imidazole hydrochloride. An analytical sample was prepared by washing a sample a second time in refluxing acetic acid and drying in the vacuum piston at the temperature of refluxing water, m.p. 288°-289°.

reactant | ethyl 5-(3,4-dimethoxyphenyl)-2-furimidate hydrochloride | 0.167 mole, 52.0 g | Cl.COC=1C=C(C=CC1OC)C1=CC=C(O1)C(OCC)=N
reactant | aminoacetaldehyde dimethyl acetal | 0.184 mole, 19.3 g | COC(CN)OC | C4H11NO2
reactant | methanol | 800 ml | CO | CH4O
solvent | HCl | 3N, 800 ml | Cl | ClH
product | 2-[5-(3,4-dimethoxyphenyl)-2-furyl]imidazole hydrochloride | 14.5 g, 28% | Cl.COC=1C=C(C=CC1OC)C1=CC=C(O1)C=1NC=CN1 | InChI=1S/C15H14N2O3.ClH/c1-18-12-4-3-10(9-14(12)19-2)11-5-6-13(20-11)15-16-7-8-17-15;/h3-9H,1-2H3,(H,16,17);1H
